US08034811B2
O-(2-Methoxy-benzyl)-hydroxylamine hydrochloride
Prepared by a similar procedure as described for preparation 18, starting from N-hydroxyphthalimide and 2-methoxybenzyl chloride (Aldrich). 13C-NMR (DMSO-d6) δ 157.5, 130.8, 130.7, 121.5, 120.3, 111.1, 70.8, 55.4.

reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 2-methoxybenzyl chloride | COC1=C(CCl)C=CC=C1 | C8H9ClO
product | O-(2-Methoxy-benzyl)-hydroxylamine hydrochloride | Cl.COC1=C(CON)C=CC=C1 | InChI=1S/C8H11NO2.ClH/c1-10-8-5-3-2-4-7(8)6-11-9;/h2-5H,6,9H2,1H3;1H
